US05767293
A mixture of 6-(4,5-dihydroxy-2-hexenoyloxy)-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane (which is the same compound as "WF 2015A" and was prepared in the same manner as that described in European Patent Application Publication No. 0314401) (34 mg), acetic anhydride (34 μl), pyridine (30 μl), and 4-dimethylaminopyridine (1 mg) in dichloromethane (0.7 ml) was stirred overnight at ambient temperature. The mixture was diluted with diethyl ether and washed with brine (X3). The organic layer was dried and concentrated in vacuo to yield 6-(4,5-diacetoxy-2-hexenoyloxy)-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane (41.7 mg) as a colorless oil.

reactant | 6-(4,5-dihydroxy-2-hexenoyloxy)-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | OC(C=CC(=O)OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC)C(C)O | C22H34O7
reactant | acetic anhydride | 34 μl | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 30 μl | N1=CC=CC=C1 | C5H5N
reactant | diethyl ether | C(C)OCC | C4H10O
catalyst | 4-dimethylaminopyridine | 1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 0.7 ml | ClCCl | CH2Cl2
product | 6-(4,5-diacetoxy-2-hexenoyloxy)-5-methoxy-4-[2-methyl-3-(3-methyl-2-butenyl)oxiranyl]-1-oxaspiro[2,5]octane | 41.7 mg | C(C)(=O)OC(C=CC(=O)OC1C(C(C2(CO2)CC1)C1(OC1CC=C(C)C)C)OC)C(C)OC(C)=O | C26H38O9
